US07759373B2
To a solution of 5-ethyl-2-(4-fluorophenyl)-4-(3-pyridyl)-imidazole (481 mg) in N,N-dimethylformamide (7 ml) was added sodium hydride (79 mg, 60% mineral oil) under ice-acetone cooling, and the mixture was stirred for 15 minutes. To the mixture was added methyl iodide (307 mg) and the mixture was stirred at room temperature for one hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel flush column chromatography (solvent: chloroform:methanol=95:5), and treated with hydrogen chloride-methanol solution to obtain 5-ethyl-2-(4-fluoro-phenyl)-1-methyl-4-(3-pyridyl)imidazole dihydrochloride (285 mg).

reactant | 5-ethyl-2-(4-fluorophenyl)-4-(3-pyridyl)-imidazole | 481 mg | C(C)C1=C(N=C(N1)C1=CC=C(C=C1)F)C=1C=NC=CC1 | C16H14FN3
reactant | sodium hydride | 79 mg | [H-].[Na+]
reactant | methyl iodide | 307 mg | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 5-ethyl-2-(4-fluoro-phenyl)-1-methyl-4-(3-pyridyl)imidazole dihydrochloride | 285 mg | Cl.Cl.C(C)C1=C(N=C(N1C)C1=CC=C(C=C1)F)C=1C=NC=CC1 | InChI=1S/C17H16FN3.2ClH/c1-3-15-16(13-5-4-10-19-11-13)20-17(21(15)2)12-6-8-14(18)9-7-12;;/h4-11H,3H2,1-2H3;2*1H
